US07687531B2
At room temperature, 273 mg (1.0 mmol) of 3-iodo-1-methyl-1H-pyrazole-4-carboxylic acid, 213 mg (0.83 mmol) of 3′,4′-dichloro-5-fluorbiphenyl-2-amine, 0.3 ml (1.67 mmol) of N,N-diisopropyl-ethylamine and 583 mg (1.25 mmol) of bromotripyrrolidinophosphonium hexafluorophosphate were stirred in 5 ml of methylene chloride for 3 days. The mixture was washed with saturated sodium bicarbonate solution and then with water. Removal and concentration of the organic phase gave 910 mg of crude product. Purification by column chromatography on silica gel 60 using methylene chloride/diethyl ether 5:1 gave 230 mg (53.5% of theory) of N-(3′,4′dichloro-5-fluoro-1,1′-biphenyl-2-yl)-3-iodo-1-methyl-1H-pyrazole4-carboxamide (compound No. 6 from table 1) of logP (pH 2.3)=3.42.

reactant | 3-iodo-1-methyl-1H-pyrazole-4-carboxylic acid | 1.0 mmol, 273 mg | IC1=NN(C=C1C(=O)O)C | C5H5IN2O2
reactant | 3′,4′-dichloro-5-fluorbiphenyl-2-amine | 0.83 mmol, 213 mg | ClC=1C=C(C=CC1Cl)C=1C(=CC=C(C1)F)N | C12H8Cl2FN
reactant | N,N-diisopropyl-ethylamine | 1.67 mmol, 0.3 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bromotripyrrolidinophosphonium hexafluorophosphate | 1.25 mmol, 583 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(3′,4′dichloro-5-fluoro-1,1′-biphenyl-2-yl)-3-iodo-1-methyl-1H-pyrazole4-carboxamide | 230 mg, 53.5% | ClC=1C=C(C=CC1Cl)C1=C(C=CC(=C1)F)NC(=O)C=1C(=NN(C1)C)I | C17H11Cl2FIN3O
